US07772285B2
20.0 g of methoxymethyl 6-methyl-1,2-benzisoxazol-3-yl ether was dissolved in 200 mL of benzene, to which 20.3 g of N-bromosuccinimide and 1.7 g of 2,2′-azobisisobutyronitrile were successively added at room temperature, and this mixture was stirred for 30 minutes while heating it under reflux. The reaction mixture was cooled to room temperature, and added to a mixture of ethyl acetate and water, and then the organic phase was separated therefrom. After the resultant organic phase was washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 28.5 g of 6-(bromomethyl)-3-(methoxymethoxy)-1,2-benzisoxazole as light brown oil.

reactant | methoxymethyl 6-methyl-1,2-benzisoxazol-3-yl ether | 20.0 g | CC1=CC2=C(C(=NO2)OCOC)C=C1 | C10H11NO3
reactant | N-bromosuccinimide | 20.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
catalyst | 2,2′-azobisisobutyronitrile | 1.7 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 6-(bromomethyl)-3-(methoxymethoxy)-1,2-benzisoxazole | 28.5 g | BrCC1=CC2=C(C(=NO2)OCOC)C=C1 | C10H10BrNO3
